* Autogenerated spice file from design_project.m

* ee114 device models
.include /usr/class/ee214/hspice/ee214_hspice.sp

r1  n_vdd n_x   900.0
rb n_vdd n_v   250.0

cd        n_i   0   200.0f
cl        n_o   0   20.0f
cb        n_b   0   1
m1    n_x   n_vx  n_i   0     nmos214       w=267.7u l=0.18u
m2    n_v   n_i   0     0     nmos214       w=171.5u l=0.18u
m3    n_vdd n_x   n_o   0     nmos214       w=11.8u l=0.18u

mb1   n_i   n_b   0     0     nmos214       w=25.3u l=0.36u
mb2   n_o   n_b   0     0     nmos214       w=18.1u l=0.36u

vdd   n_vdd   0     1.8
vx    n_v     n_vx  0
is    n_i     0   DC=0  AC=1
ib    n_vdd   n_b 1111.111u
mb4   n_b     n_b   0     0     nmos214       w=25.2u l=0.36u
.op
.ac dec 1000 1e3 1000e9
.lstb mode=single vsource=vx
.probe ac lstb(db) lstb(p)
.pz v(n_o) is
.noise v(n_o) is
.option post brief accurate
.end
